US07105503B2
{4-[N′-(3,5-Diaminopyrazol-4-ylidene)hydrazino]benzyl}phosphonic acid diethyl ester was prepared using [4-(N′-dicyanomethylenehydrazino)benzyl]phosphonic acid diethyl ester (0.16 g, 0.5 mmol) which was derived from diethyl 4-aminobenzylphosphonate (0.243 g, 1.0 mmol) and malononitrile (1.5 mmol) in a manner similar to that described in Example 2, and hydrazine hydrate. The title compound was purified by flash chromatography and isolated as a golden solid (0.116 g, 66%); 1H NMR (ppm, 200 MHz, DMSO-d6) δ 1.20 (t, 6H), 3.23 (d, 2H), 3.95 (q, 4H), 6.0 (br s, 4H), 7.28 (d, 2H), 7.60 (d, 2H), 10.70.

reactant | [4-(N′-dicyanomethylenehydrazino)benzyl]phosphonic acid diethyl ester | 0.5 mmol, 0.16 g | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)NN=C(C#N)C#N | C14H17N4O3P
reactant | diethyl 4-aminobenzylphosphonate | 1.0 mmol, 0.243 g | NC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H18NO3P
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | {4-[N′-(3,5-Diaminopyrazol-4-ylidene)hydrazino]benzyl}phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)NN=C1C(=NN=C1N)N | C14H21N6O3P
